US04180670
N-[α-butyl-2-thenyl]-4-pyridinamine
To a stirred, cooled (10°-20° C.) a solution of 3.77 grams of 4-(2-thenylideneamino)pyridine in 100 milliliters of dry ether, a solution containing 0.025 mole butyl lithium in 50 milliliters of dry ether was added dropwise. The resulting solution was stirred at room temperature for 4 hours, and then diluted with 150 ml dry ether before cautious addition of 50 ml. water. The organic phase was dried (MgSO4) and evaporated to dryness to give 5.24 grams of a brown oil. This brown oil was dissolved in toluene and extracted with 2 N hydrochloric acid. The extracts were basified with sodium hydroxide and extracted back into toluene. The resulting solution of the base in toluene was dried (MgSO4) and evaporated to dryness. The resulting oil was crystallised from petrol (100°-120° C.)/toluene affording 2.0 grams of a white solid. This material was dissolved in isopropanol and converted to the hydrochloride salt with ethereal hydrogen chloride and crystallised by addition of ether, yielding 1.153 grams of N-[α-butyl-2-thenyl]-4-pyridinamine hydrochloride of melting point 146.5°-148° C.

reactant | 4-(2-thenylideneamino)pyridine | 3.77 grams | C1(=CC=CS1)C=NC1=CC=NC=C1 | C10H8N2S
reactant | butyl lithium | 0.025 mole | C(CCC)[Li]
reactant | water | O | H2O
solvent | ether | 100 milliliters | CCOCC | C4H10O
solvent | ether | 50 milliliters | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | N-[α-butyl-2-thenyl]-4-pyridinamine | 5.24 grams | C(CCC)C(C1=CC=CS1)NC1=CC=NC=C1 | C14H18N2S
